US08357706B2
To a stirring solution of 4-bromo-2,3-dihydro-1H-inden-1-one (5.0 g, 23.6 mmol) and (R)-2-methylpropane-2-sulfinamide (3.15 g, 26.0 mmol) in toluene (40 mL) was added titanium tetraethoxide (8.1 g, 35.5 mmol) and the reaction mixture was heated at 60° C. for 18 h under N2. To this mixture was added THF (40 mL) and the resulting solution was cooled to −78° C. Sodium borohydride (3.5 g, 94.7 mmol) was added in one portion. The reaction mixture was stirred at −78° C. for 15 min, and then warmed to room temperature and stirred at this temperature for 2 h. The reaction mixture was cooled to 0° C. before quenching with brine and sodium potassium-tartrate. EA was added and the mixture was stirred at room temperature overnight during which time Ti salts precipitated. The organic layers were decanted, and washed successively with saturated NH4Cl, water, and brine. The organic layers were dried over MgSO4, filtered through a pad of MgSO4, and concentrated to produce (R)-N-((R)-4-bromo-2,3-dihydro-1H-inden-1-yl)-2-methylpropane-2-sulfinamide INT-34 as a solid (3.14 g, 42%) which was used in the next step without purification. LCMS-ESI (m/z) calculated C13H18BrNOS: 317.3; found 318.0 [M+H]+, tR=3.59 min. 1H NMR (400 MHz, CDCl3) δ 7.46 (d, J=7.5, 1H), 7.34 (d, J=7.9, 1H), 7.05 (t, J=7.7, 1H), 4.96-4.77 (m, 1H), 3.39 (d, J=6.8, 1H), 3.06-2.86 (m, 1H), 2.82-2.60 (m, 1H), 2.50-2.29 (m, 1H), 2.05-1.81 (m, 1H), 1.16 (s, 9H).

reactant | 4-bromo-2,3-dihydro-1H-inden-1-one | 23.6 mmol, 5.0 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | (R)-2-methylpropane-2-sulfinamide | 26.0 mmol, 3.15 g | CC(C)(C)[S@@](=O)N | C4H11NOS
reactant | THF | 40 mL | C1CCOC1 | C4H8O
reactant | Sodium borohydride | 94.7 mmol, 3.5 g | [BH4-].[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | titanium tetraethoxide | 35.5 mmol, 8.1 g | [O-]CC.[O-]CC.[O-]CC.[O-]CC.[Ti+4]
product | (R)-N-((R)-4-bromo-2,3-dihydro-1H-inden-1-yl)-2-methylpropane-2-sulfinamide | BrC1=C2CC[C@H](C2=CC=C1)N[S@](=O)C(C)(C)C | C13H18BrNOS
